US05204464
(b) 3-Cyano-2-morpholino-5-(pyrid-4-yl)-pyridine (γ-modification)
5.3 kg 3-cyano-2-morpholino-5-(pyrid-4-yl)-pyridine hydrochloride monohydrate is suspended in 40 l water and the suspension is heated to 50° C. 0.5 kg activated charcoal is added and filtered off with suction after 15 minutes of stirring and washed with water. The filtrate is cooled to 30° C. While stirring, about 2.7 l concentrated sodium hydroxide solution is allowed to run in over a period of one hour at this temperature until pH 8-9. The crystalline material is centrifuged off and washed with total of 30 l water. The yield is 4.1 kg (93.2% of the theoretical yield), with a melting point of 126° C.-128° C. The bulk density of the material, after is was pulverized in a mortar, was about 360 g/l.

reactant | 3-cyano-2-morpholino-5-(pyrid-4-yl)-pyridine hydrochloride monohydrate | 5.3 kg | O.Cl.C(#N)C=1C(=NC=C(C1)C1=CC=NC=C1)N1CCOCC1
reactant | charcoal | C | CH4
solvent | water | 40 l | O | H2O
product | 3-Cyano-2-morpholino-5-(pyrid-4-yl)-pyridine | C(#N)C=1C(=NC=C(C1)C1=CC=NC=C1)N1CCOCC1 | C15H14N4O
